US04005103
15.2 G of 1-cyclopropyl-3-(p-chlorophenyl)-4-methyl-4-nitropentanone in 250 ml of methanol are hydrogenated for 7 hours 30 minutes under 100 atmospheres at 120° C in the presence of 10 g of Raney Nickel. Filtration, evaporation of the methanolic filtrate under reduced pressure and recrystallisation from isopropanol give 9 g of 2-cyclopropyl-4-phenyl-5,5-dimethylpyrrolidine hydrochloride as white crystals. Melting point = 271°-273° C.

reactant | 1-cyclopropyl-3-(p-chlorophenyl)-4-methyl-4-nitropentanone | C1(CC1)CC(C(C(C)([N+](=O)[O-])C)C1=CC=C(C=C1)Cl)=O | C15H18ClNO3
solvent | methanol | 250 ml | CO | CH4O
catalyst | Raney Nickel | 10 g | [Ni] | Ni
product | 2-cyclopropyl-4-phenyl-5,5-dimethylpyrrolidine hydrochloride | 9 g | Cl.C1(CC1)C1NC(C(C1)C1=CC=CC=C1)(C)C | InChI=1S/C15H21N.ClH/c1-15(2)13(11-6-4-3-5-7-11)10-14(16-15)12-8-9-12;/h3-7,12-14,16H,8-10H2,1-2H3;1H
